US07462600B2
To quinoxalin-5-ol (0.43 g) dissolved in DMF (6 ml) was added K2CO3 (2.5 eq.) and KI (0.2 eq.). To this mixture was then added dropwise iodomethane (1.2 eq.). The resulting mixture then heated to 50° C. overnight. The reaction mixture was subsequently partitioned between satd. NaHCO3 and EtOAc, the EtOAc layer backwashed with water and brine, dried over Na2SO4, and concentrated to dryness under vacuum. The crude material was then purified by SGC (MeOH:DCM) affording 5-methoxyquinoxaline. MS (ESI+) for m/z 160 [M+H]+.

reactant | quinoxalin-5-ol | 0.43 g | N1=CC=NC=2C(=CC=CC12)O | C8H6N2O
reactant | K2CO3 | 2.5 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 1.2 eq. | IC | CH3I
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 5-methoxyquinoxaline | COC1=C2N=CC=NC2=CC=C1 | C9H8N2O
